US06593465B1
Preparation of 3-bromo-1-(trifluoroacetamidyl)propane
To a solution of 3-bromopropylamine (2.19 g, 10.0 mmol, Aldrich Chemical Co., Milwaukee, Wiss.) and triethyl amine (1.67 mL, 12.0 mmol, Aldrich Chemical Co.) in 60 mL methylene chloride at 0° C. in a 200 mL roundbottom flask equipped with a addition funnel was added trifluoroacetic anhydride (1.69 mL, 12.0 mmol, Aldrich Chemical Co.) in 60 mL methylene chloride over a period of 20 minutes. The reaction was stirred overnight, washed 1×10 mL 2% bicarbonate, 1×10 mL water, and dried over magnesium sulfate. Removal of solvent yielded 2.07 g (88.5%) product as amorphous crystals. H1-NMR (CDCl3)): ? 3.55 (m, 2H), 3.45 (m, 2H), 2.17 (m, 2H).

reactant | 3-bromopropylamine | 10.0 mmol, 2.19 g | BrCCCN | C3H8BrN
reactant | triethyl amine | 12.0 mmol, 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 12.0 mmol, 1.69 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-1-(trifluoroacetamidyl)propane | 2.07 g, 88.5% | BrCCCNC(C(F)(F)F)=O | C5H7BrF3NO
